US07507763B2
(3-{[3-(Benzoylamino-methyl)-benzofuran-5-sulfonyl]-isobutyl-amino}-1-benzyl-2-hydroxy-propyl)-carbamic acid hexahydro-furo [2,3-b]furan-3-yl ester
{3-[(3-Aminomethyl-benzofuran-5-sulfonyl)-isobutyl-amino]-1-benzyl-2-hydroxy-propyl}-carbamic acid hexahydro-furo[2,3-b]furan-3-yl ester from the previous step (20 mg, 33 umol) was dissolved in 0.5 mL THF. 5.8 uL (50 umol) benzoyl chloride and 7 uL (50 umol) triethylamine were added and the reaction was stirred at room temperature for 1 h. The reaction mixture was purified by prep TLC on the silica gel plate with ethyl acetate/hexanes=2/1 to afford 12 mg (17 umol, 52%) of product. MS 706 (MH+).

reactant | {3-[(3-Aminomethyl-benzofuran-5-sulfonyl)-isobutyl-amino]-1-benzyl-2-hydroxy-propyl}-carbamic acid hexahydro-furo[2,3-b]furan-3-yl ester | O1CC(C2C1OCC2)OC(NC(C(CN(CC(C)C)S(=O)(=O)C=2C=CC1=C(C(=CO1)CN)C2)O)CC2=CC=CC=C2)=O | C30H39N3O8S
reactant | benzoyl chloride | 50 umol, 5.8 uL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | triethylamine | 50 umol, 7 uL | C(C)N(CC)CC | C6H15N
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | (3-{[3-(Benzoylamino-methyl)-benzofuran-5-sulfonyl]-isobutyl-amino}-1-benzyl-2-hydroxy-propyl)-carbamic acid hexahydro-furo [2,3-b]furan-3-yl ester | 17 umol, 12 mg, 52% | O1CC(C2C1OCC2)OC(NC(C(CN(CC(C)C)S(=O)(=O)C=2C=CC1=C(C(=CO1)CNC(C1=CC=CC=C1)=O)C2)O)CC2=CC=CC=C2)=O | C37H43N3O9S
